US07851623B2
A 71.5% w/w aqueous solution of 1-(3-chloropropyl)pyrrolidine hydrochloride (25 kg) was diluted with water (14 1) and methyl tert-butyl ether (12 1) added. The stirred mixture was basified to pH>11 by addition of 46% w/w aqueous sodium hydroxide solution (6.5 1). The layers were separated and he lower aqueous phase was further extracted with methyl tert-butyl ether (12 1). The combined organic layers were washed with 20% w/w aqueous sodium chloride solution (12.5 kg) to give a solution of 1-(3-chloropropyl)pyrrolidine in methyl tert-butyl ether.

reactant | 1-(3-chloropropyl)pyrrolidine hydrochloride | 25 kg | Cl.ClCCCN1CCCC1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
product | 1-(3-chloropropyl)pyrrolidine | ClCCCN1CCCC1 | C7H14ClN
